US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(2-((but-3-ynyloxy)methyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound BX)
To a cooled solution (−30° C.) of (3R,4S,5S,6R)-2-(2-((but-3-ynyloxy)methyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol (BW) (12 mg, 0.0238 mmol) in 0.5 mL of 1:1 CH2Cl2:CH3CN was added Et3SiH (16 μL, 0.1 mmol) followed by addition of BF3.OEt2 (10 μL, 0.0789 mmol). After stirring for about 4 h, the reaction was quenched with a saturated solution of NaHCO3. The solution was extracted with ethyl acetate and the extracts were washed with brine, followed by drying over Na2SO4. The solution was concentrated and the resulting residue was purified by preparative HPLC to afford 3.5 mg of title product. 1H-NMR (CD3OD, 400 MHz) δ 7.47 (s, 1H), 7.45 (s, 1H), 7.10 (s, 4H), 4.80 (d, J=12.4 Hz, 1H), 4.61 (d, J=12.4 Hz, 1H), 4.49 (d, J=8.8 Hz, 1H), 4.10 (d, J=15.0 Hz, 1H), 4.05 (d, J=15.0 Hz, 1H), 3.88 (dd, J=12.0, 2.0 Hz, 1H), 3.70-3.64 (m, 3H), 3.50 (t, J=8.4 Hz, 1H), 3.46-3.40 (m, 3H), 2.60 (q, J=7.4 Hz, 2H), 2.53-2.49 (m, 2H), 2.30 (t, J=2.6 Hz, 1H), 1.21 (t, J=7.4 Hz, 3H); LC-MS (m/z): 475 [M+H]+, 519 [M+HCO2]−.

reactant | (3R,4S,5S,6R)-2-(2-((but-3-ynyloxy)methyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | 0.0238 mmol, 12 mg | C(CC#C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)C1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC | C27H33ClO7
reactant | CH3CN | CC#N | C2H3N
reactant | Et3SiH | 0.1 mmol, 16 μL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.OEt2 | 0.0789 mmol, 10 μL | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-2-(2-((but-3-ynyloxy)methyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 3.5 mg | C(CC#C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C26H31ClO6
